US06093718
Ethyl acetate saturated with gaseous HCl was added to a solution of 1-(tert-butoxycarbonyl)-4-[1-(6-methylpyrimidin-4-yl)-4-piperidylcarbonyl] piperazine (14.07 g) in ethyl acetate (50 ml) and the resulting suspension stirred at ambient temperature for 3 hours. Solvent was evaporated to give 4-[1-(6-methylpyrimidin-4-yl)-4-piperidylcarbonyl] piperazine hydrochloride (11.79 g) as a solid.

reactant | HCl | Cl | ClH
reactant | 1-(tert-butoxycarbonyl)-4-[1-(6-methylpyrimidin-4-yl)-4-piperidylcarbonyl] piperazine | 14.07 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=NC=NC(=C1)C | C20H31N5O3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-[1-(6-methylpyrimidin-4-yl)-4-piperidylcarbonyl] piperazine hydrochloride | 11.79 g | Cl.CC1=CC(=NC=N1)N1CCC(CC1)C(=O)N1CCNCC1 | InChI=1S/C15H23N5O.ClH/c1-12-10-14(18-11-17-12)19-6-2-13(3-7-19)15(21)20-8-4-16-5-9-20;/h10-11,13,16H,2-9H2,1H3;1H
